US04176191
5,6-Dimethoxy-3(4-carbethoxy piperazino)methylene oxindole (VII)
4.0 g. of 5,6-dimethoxy-3-hydroxymethylene oxindole was reacted with N-carbethoxy piperazine as described in Example 2, except that 0.10 g. toluene sulfone acid was added as a catalyst. Yield, 3.05 g. of product, m.p. 172°-174° C.

reactant | 5,6-dimethoxy-3-hydroxymethylene oxindole | COC=1C=C2C(C(NC2=CC1OC)=O)=CO | C11H11NO4
reactant | N-carbethoxy piperazine | C(=O)(OCC)N1CCNCC1 | C7H14N2O2
product | 5,6-Dimethoxy-3(4-carbethoxy piperazino)methylene oxindole | COC=1C=C2C(C(NC2=CC1OC)=O)=CN1CCN(CC1)C(=O)OCC | C18H23N3O5
